US05110815
5,6,7,8-Tetrahydro-5-[[2-(4-methoxyphenyl)ethyl]amino]-1-methyl-2(1H)-quinolinone
A mixture of 2-(4-methoxyphenyl)ethylamine (5.6 g), 5,6,7,8-tetrahydro-1-methyl-5-oxo-2(1H)-quinolinone (5.5 g), and a catalytic amount of para-toluenesulfonic acid was heated in refluxing toluene (90 ml), with azeotropic removal of water, for 39 hrs. The solution was cooled and concentrated in vacuo. Sodium borohydride (1.1 g) was added to a solution of the residue in ethyl alcohol (90 ml), and the mixture was stirred at room temperature for 2 hrs. The mixture was concentrated in vacuo, the residue was quenched with water, and the mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was washed with diethyl ether to afford 7.8 g (81%) of product. Recrystallization from ethyl acetate/hexanes provided the analytical sample, mp 97°-99° C.

reactant | 2-(4-methoxyphenyl)ethylamine | 5.6 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | 5,6,7,8-tetrahydro-1-methyl-5-oxo-2(1H)-quinolinone | 5.5 g | CN1C(C=CC=2C(CCCC12)=O)=O | C10H11NO2
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,7,8-Tetrahydro-5-[[2-(4-methoxyphenyl)ethyl]amino]-1-methyl-2(1H)-quinolinone | 7.8 g, 81% | COC1=CC=C(C=C1)CCNC1C=2C=CC(N(C2CCC1)C)=O | C19H24N2O2
